US05559081
(i) 4,6-Dimethoxy-2-(2-nitrobenzyl)pyrimidine
Ethyl diisopropylamine (240 ml) was added dropwise to a stirred suspension of dimethyl malonimidate dihydrochloride (73.2 g) in dichloromethane (400 ml) at -40° C. under nitrogen, and the mixture was stirred at -40° C. for 25 minutes to give suspension A. 2-Nitrophenylacetic acid (65.16 g) was added portionwise to a stirred suspension of carbonyl diimidazole (53.3 g) in dichloromethane (400 ml) at room temperature. The resulting solution was stirred for 10 minutes and was added dropwise over 30 minutes to the suspension A at -40° C. The mixture was stirred at -40° C. for a further 45 minutes and then at room temperature overnight, after which the solution was washed with water (400 ml), 2N HCl (400 ml) and saturated sodium bicarbonate solution (400 ml), dried and evaporated to give an orange solid. It was then stirred with propan-2-ol (50 ml) for 10 minutes and filtered. The solid was washed with a further 50 ml of propan-2-ol and then dried to give 32.6 g of the desired product as a yellow solid, mp 92°-93° C.

reactant | Ethyl diisopropylamine | 240 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethyl malonimidate dihydrochloride | 73.2 g | Cl.Cl.C(CC(OC)=N)(OC)=N
reactant | 2-Nitrophenylacetic acid | 65.16 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | carbonyl diimidazole | 53.3 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | propan-2-ol | 50 ml | CC(C)O | C3H8O
product | 4,6-Dimethoxy-2-(2-nitrobenzyl)pyrimidine | 32.6 g | COC1=NC(=NC(=C1)OC)CC1=C(C=CC=C1)[N+](=O)[O-] | C13H13N3O4
